US06995144B2
1-[1-(3-tert-Butoxy-2-pyrazinylmethyl)piperidin-4-yl]-2-[2-(trifluoromethyl)phenyl]ethanone
After suspending 200 mg of 1-(piperidin-4-yl)-2-[2-(trifluoromethyl)phenyl]ethanone hydrochloride in 2 ml of dichloromethane, a solution of 140 mg of 3-tert-butoxypyrazine-2-carboxaldehyde in dichloromethane (2 ml) and 207 mg of sodium triacetoxyborohydride were added while stirring, and the stirring was continued overnight at room temperature. A 1N sodium hydroxide solution was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (249 mg, 88% yield).

reactant | 1-(piperidin-4-yl)-2-[2-(trifluoromethyl)phenyl]ethanone hydrochloride | 200 mg | Cl.N1CCC(CC1)C(CC1=C(C=CC=C1)C(F)(F)F)=O
reactant | 3-tert-butoxypyrazine-2-carboxaldehyde | 140 mg | C(C)(C)(C)OC=1C(=NC=CN1)C=O | C9H12N2O2
reactant | sodium triacetoxyborohydride | 207 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(3-tert-Butoxy-2-pyrazinylmethyl)piperidin-4-yl]-2-[2-(trifluoromethyl)phenyl]ethanone | 249 mg, 88% yield | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)C(CC1=C(C=CC=C1)C(F)(F)F)=O | C23H28F3N3O2
